US05194671
Under the same conditions as in Example 1, 116 g (1.0 mol) of methyl acetoacetate in a mixture of 520 ml of methylene chloride and 30 ml of methyl ethyl ketone were reacted with 77.8 g (1.05 mol) of calcium hydroxide and 148.0 g (1.1 mol) of hexanoyl chloride. The pH in the subsequent reaction with ammonia was adjusted to 9.2. This gave 165 g (GC purity 78.5%) of methyl hexanoylacetate (yield 75.0%).

reactant | methyl acetoacetate | 1.0 mol, 116 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | calcium hydroxide | 1.05 mol, 77.8 g | [OH-].[Ca+2].[OH-]
reactant | hexanoyl chloride | 1.1 mol, 148.0 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | ammonia | N | H3N
solvent | methylene chloride | 520 ml | C(Cl)Cl | CH2Cl2
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | methyl hexanoylacetate | 165 g, yield 75.0% | C(CCCCC)(=O)CC(=O)OC | C9H16O3
